US09056881B2
Propargyl bis(pentafluoroethyl)phosphinate (11.18 g; 32.9 mmol) is slowly added dropwise to cooled (0° C.) N-methylimidazole (2.22 g; 27.1 mmol) in a 100 ml glass flask. In an exothermic reaction, an orange solid is formed, which is warmed and stirred at room temperature for 1.5 h. After drying in vacuo (10−3 mbar) at room temperature, 1-propargyl-3-methylimidazolium bis(pentafluoroethyl)phosphinate, [CH≡CCH2MIM][(C2F5)2P(O)O], (11.14 g; 26.3 mmol) is isolated as pale-orange solid in a yield of 99% and a purity of 97%. The coloured solid can be washed colourless with dichloromethane and n-hexane.

reactant | Propargyl bis(pentafluoroethyl)phosphinate | 32.9 mmol, 11.18 g | FC(C(F)(F)F)(F)P(OCC#C)(=O)C(C(F)(F)F)(F)F | C7H3F10O2P
reactant | N-methylimidazole | 27.1 mmol, 2.22 g | CN1C=NC=C1 | C4H6N2
product | 1-propargyl-3-methylimidazolium bis(pentafluoroethyl)phosphinate | yield of 99% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(C#C)[N+]1=CN(C=C1)C | InChI=1S/C7H9N2.C4HF10O2P/c1-3-4-9-6-5-8(2)7-9;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h1,5-7H,4H2,2H3;(H,15,16)/q+1;/p-1
